US07595369B2
2-butylnorbornene (16.8 g, 112 mmol), methyl acrylate (5 mL, 56 mmol), and AIBN (0.28 g, 1.68 mmol) were charged into a 250 mL Schlenk flask and dissolved in 30 mL of toluene. Ethylaluminum sesquichloride (15.2 g; 61.6 mmol) was charged into a 100 mL flask and dissolved in 20 mL of toluene. The toluene solution of ethylaluminum sesquichloride was slowly dropped to the 250 mL Schlenk flask at −70° C. The reaction temperature was raised to room temperature while stirring the mixture for 2 hours, and then the reaction was performed at 65° C. for 12 hours. The reaction solution turned to light green in color during the reaction. After the reaction was completed, the reaction solution was slowly dropped to 3000 cc of 5% v/v HCl—MeOH to precipitate a white polymer, which was filtered through a glass filter and dried in a vacuum oven at 70° C. for 12 hours to obtain a 2-butyl norbornene-methyl acrylate copolymer (5 g: 38.0% by weight based on the total weight of used monomers). The copolymer had a Tg of 100° C., a molecular weight (Mw) of 8,180, and Mw/Mn of 3.2.

reactant | 2-butylnorbornene | 112 mmol, 16.8 g | C(CCC)C=1C2CCC(C1)C2 | C11H18
reactant | methyl acrylate | 56 mmol, 5 mL | C(C=C)(=O)OC | C4H6O2
reactant | AIBN | 1.68 mmol, 0.28 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | Ethylaluminum sesquichloride | 61.6 mmol, 15.2 g | CC[Al](CC)Cl.CC[Al](Cl)Cl
reactant | HCl MeOH | Cl.CO
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-butyl norbornene methyl acrylate | C(CCC)C=1C2CCC(C1)C2.C(C=C)(=O)OC | InChI=1S/C11H18.C4H6O2/c1-2-3-4-10-7-9-5-6-11(10)8-9;1-3-4(5)6-2/h7,9,11H,2-6,8H2,1H3;3H,1H2,2H3
